### ISSUE TITLE
Misformalization in SpherePacking/MagicFunction/a/IntegralEstimates/I6.lean

### ISSUE THREAD

**Issue by llllvvuu** [thefundamentaltheor3m/Sphere-Packing-Lean#214]
After `Bound_integrableOn`, put:

```lean
example : False := by
  have := @Bound_integrableOn
  contrapose! this
  refine' ⟨ -2, _ ⟩;
  obtain ⟨ C₀, hC₀_pos, hC₀ ⟩ := I₆'_bounding_aux_2 ( -2 );
  refine' ⟨ C₀, hC₀_pos, hC₀, _ ⟩;
  norm_num [ mul_assoc, ← Real.exp_add ];
  ring_nf;
  norm_num [ MeasureTheory.integrableOn_const, hC₀_pos.ne' ]
```

This counterexample was found by [Aristotle](https://aristotle.harmonic.fun/).

**Comment by seewoo5** [comment]
Resolved in #219
